US07291640B2
6-Chloro-nicotinic acid N′-acetyl-hydrazide
The title compound was prepared from 6-chloronicotinic acid hydrazide and acetyl chloride, using the method of preparation 33, as a white solid in 64% yield.

reactant | 6-chloronicotinic acid hydrazide | ClC1=NC=C(C(=O)NN)C=C1 | C6H6ClN3O
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | 6-Chloro-nicotinic acid N′-acetyl-hydrazide | 64% yield | C(C)(=O)NNC(C1=CN=C(C=C1)Cl)=O | C8H8ClN3O2
